US07872022B2
b) 4-(4-Fluoro-phenyl)-5,6-dihydro-2H-pyridine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester
To a mixture of 4-trifluoromethanesulfonyloxy-5,6-dihydro-2H-pyridine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester (10.1 g, 25.9 mmol), 4-fluorophenylzinc bromide solution (0.5 M in THF, 86.3 ml, 43.1 mmol) and 290 ml THF was added tetrakis(triphenylphosphine)palladium(0) (0.83 g, 0.72 mmol) at RT. After stirring for 6 h the reaction was quenched with ice. The mixture was diluted with tert-butyl methyl ether and washed with 2 M aqueous sodium carbonate solution. The aqueous layer was extracted with two portions of tert-butyl methyl ether. The combined organic layers were washed with brine, dried over sodium sulfate and concentrated in vacuo. Purification of the residue by flash chromatography (heptane/ethyl) gave the title compound as a lightly yellow amorphous residue (6.8 g, 71%).

reactant | 4-trifluoromethanesulfonyloxy-5,6-dihydro-2H-pyridine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester | 25.9 mmol, 10.1 g | COC(=O)C=1CN(CCC1OS(=O)(=O)C(F)(F)F)C(=O)OC(C)(C)C | C13H18F3NO7S
reactant | 4-fluorophenylzinc bromide | 43.1 mmol, 0.5 M, 86.3 ml | [Br-].FC1=CC=C(C=C1)[Zn+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.72 mmol, 0.83 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | THF | 290 ml | C1CCOC1 | C4H8O
product | 4-(4-Fluoro-phenyl)-5,6-dihydro-2H-pyridine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester | COC(=O)C=1CN(CCC1C1=CC=C(C=C1)F)C(=O)OC(C)(C)C | C18H22FNO4
